US07960394B2
(2) Production of 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde
Compounds of Reference Examples 2 and 3 can be produced according to the method of Reference Example 1 but starting from tert-butyl 4-[4-(ethoxycarbonyl)phenoxy]tetrahydro-1(2H)-pyridinecarboxylate and [(1-ethoxycyclopropyl)oxy](trimethyl)silane or cyclobutanone.

reactant | tert-butyl 4-[4-(ethoxycarbonyl)phenoxy]tetrahydro-1(2H)-pyridinecarboxylate | C(C)OC(=O)C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H27NO5
reactant | [(1-ethoxycyclopropyl)oxy](trimethyl)silane | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C17H23NO2
